US05606012
Hydrogel dimethylhexanediamine/methylene-bis-acrylamide/Jeffamine EDR-148 (DA1/2 JR)
1.65 g (11.44 mmoles) of dimethylhexanediamine (DMESA) were reacted with 2.11 g (9.8 mmoles) of methylene-bis-acrylamide (BAC), in 10 ml of distilled water at room temperature. The mixture was left to react for 3 days shielding from light, to give a polyamidoamine prepolymer, mainly ending with vinyl groups. After that, the prepolymer was cross-linked directly by adding the reaction mixture with 170 mg (1.144 mmoles) of Jeffamine EDR-148. The reaction was carried out for 3 days at room temperature. When the reaction was over, the product was repeatedly washed with water and methanol to remove the unreacted compounds. An elastic opaque white gel was obtained (89% yield).

reactant | dimethylhexanediamine | 11.44 mmoles, 1.65 g | CC(C(N)(N)C)CCCC | C8H20N2
reactant | methylene-bis-acrylamide | 9.8 mmoles, 2.11 g | C(C=CC(=O)N)C=CC(=O)N | C7H10N2O2
reactant | Jeffamine | 1.144 mmoles, 170 mg | CC(COCC(C)OCC(C)OCC(C)N)N | C12H28N2O3
solvent | water | 10 ml | O | H2O
product | dimethylhexanediamine methylene-bis-acrylamide Jeffamine | 89% yield | CC(C(N)(N)C)CCCC.C(C=CC(=O)N)C=CC(=O)N.CC(COCC(C)OCC(C)OCC(C)N)N | InChI=1S/C12H28N2O3.C8H20N2.C7H10N2O2/c1-9(13)5-15-7-11(3)17-8-12(4)16-6-10(2)14;1-4-5-6-7(2)8(3,9)10;8-6(10)4-2-1-3-5-7(9)11/h9-12H,5-8,13-14H2,1-4H3;7H,4-6,9-10H2,1-3H3;2-5H,1H2,(H2,8,10)(H2,9,11)
